US07045309B2
General methods for synthesis of compounds 1-3 and 7-17. 31P (101 MHz) and 1H NMR (250 MHz): Bruker AC250; the residual solvent peaks were used as internal standard for the 1H NMR spectra, phosphoric acid was used as external standard for the 31P NMR spectra. All 31P NMR spectra were recorded in the proton-decoupled mode. Chemical shifts are given in δ (ppm) and coupling constants, J, are in Hz. Column chromatography was carried out on silica gel 60 (particle size 0.040-0.063 mm; EM Science, Merck, Darmstadt). Analytical thin-layer chromatography, used to monitor all reactions, was performed on silica get 60 PF254, with fluorescence indicator (0.2 mm; Merck, Darmstadt) on aluminum plates, and visualization was accomplished by UV absorbance. Phosphorus containing compounds were detected by spraying with Hanes molybdate reagent. Sugar containing compounds were detected by spraying with anisaldehyde reagent each time followed by heating. High-performance liquid chromatography (HPLC) studies were carried out on a Waters system equipped with a model 600 controller, a model 717plus autosampler, a model 996 photodiode array detector and a Millenium data workstation. Separations were by reverse-phase chromatography (Ultrasphere, C18, 250×4.6 mm, 5 μm) with linear gradients of 0 to 100% acetonitrile in water over a 40 min period at a flow rate of 1 ml/min. S-acyl-2-thioethanols and bis(S-2-hydroxyethylthioacyl) N,N-diisopropylphosphoramidites were synthesized according to Lefebvre et al.[50]. The cyclic chlorophosphanes were synthesized according to Meier [51]. 2′,5′-dideoxyadenosine was synthesized according to Désaubry et al. [52]. Monotriethylammonium N6-(4-monomethoxytrityl)-9-(2-phosphonylmethoxypropyl)-adenine was synthesized according to Holy et al. [53,54]. Solvents: pyridine, tetrahydrofuran and dimethylformamide were analytical quality, absolute from Fluke. 1H-tetrazole and 1-(mesitylenesulfonyl)-3-nitro-1H-1,2,4-triazole were from Aldrich.

reactant | Phosphorus | [P] | P
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | 1H-tetrazole | N1N=NN=C1 | CH2N4
reactant | 1-(mesitylenesulfonyl)-3-nitro-1H-1,2,4-triazole | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)N1N=C(N=C1)[N+](=O)[O-])C | C11H12N4O4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | molybdate | [O-][Mo](=O)(=O)[O-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2′,5′-dideoxyadenosine | [C@@H]1(C[C@H](O)[C@@H](C)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O2
